US09388161B2
A 100-mL, round-bottom flask equipped with a balloon filled with air was charged with (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.200 g, 0.70 mmol), pyridine (1 mL), copper (II) acetate (0.382 g, 2.10 mmol), 3-methylpyridin-2-ylboronic acid 0.190 g, 1.39 mmol) and N,N-dimethylformamide (8 mL). The resulting mixture stirred at 90° C. overnight. After cooling to room temperature, the reaction mixture was filtered, and the filtrate was concentrated under vacuum. The residue was purified by column chromatography on silica gel (eluting with 1:8, ethyl acetate/petroleum ether) to afford (S)-1-(6-bromo-2-methyl-5-(3-methylpyridin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone (0.129 g, 49%) as yellow oil. MS (ESI, pos. ion) m/z 375, 377 [M+H]+.

reactant | (S)-1-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.70 mmol, 0.200 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)O | C12H14BrNO2
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-methylpyridin-2-ylboronic acid | 1.39 mmol, 0.190 g | CC=1C(=NC=CC1)B(O)O | C6H8BNO2
catalyst | copper (II) acetate | 2.10 mmol, 0.382 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | (S)-1-(6-bromo-2-methyl-5-(3-methylpyridin-2-yloxy)-3,4-dihydroquinolin-1(2H)-yl)ethanone | 0.129 g, 49% | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(C)=O)C)OC1=NC=CC=C1C | C18H19BrN2O2
